US09359362B2
Ethyl (rac)-7-(4-cyanophenyl)-5-methyl-2-[(trifluoroacetyl)amino]-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
Ethyl 7-(4-cyanophenyl)-5-methyl-2-[(trifluoroacetyl)amino]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate (45 mg, 107 μmol) and 3-(trifluoromethyl)phenylboronic acid (61 mg, 321 μmol, 3 eq.) were initially charged together with anhydrous copper(II) acetate (58 mg, 321 μmol, 3 eq.) and molecular sieve (0.1 g, 4 Å) and, under an atmosphere of argon protective gas, suspended in abs. dichloromethane (3 ml). Abs. pyridine (69 μl, 856 μmol, 8 eq.) and triethylamine (45 μl, 321 μmol, 3 eq.) were then added. After 12 h of stirring, more 3-(trifluoromethyl)phenylboronic acid (20 mg, 107 μmol, 1 eq.), anhydrous copper(II) acetate (19 mg, 321 μmol, 1 eq.) and pyridine (35 μl, 428 μmol, 4 eq.) were added, and the mixture was stirred for a further 24 h. The mixture was then filtered through kieselguhr, the filter residue was washed with dichloromethan and methanol and the filtrate concentrated under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 10 μm, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (10.3 mg, 17% of theory).

reactant | Ethyl 7-(4-cyanophenyl)-5-methyl-2-[(trifluoroacetyl)amino]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | 107 μmol, 45 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)NC(C(F)(F)F)=O)C)C(=O)OCC | C18H15F3N6O3
reactant | 3-(trifluoromethyl)phenylboronic acid | 321 μmol, 61 mg, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 856 μmol, 69 μl, 8 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 321 μmol, 45 μl, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenylboronic acid | 107 μmol, 20 mg, 1 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 428 μmol, 35 μl, 4 eq. | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate | 321 μmol, 58 mg, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 321 μmol, 19 mg, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Ethyl (rac)-7-(4-cyanophenyl)-5-methyl-2-[(trifluoroacetyl)amino]-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)NC(C(F)(F)F)=O)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C25H18F6N6O3
